US05030381
Preparation of a Reaction Mixture with Diperoxydode-canedioic Acid (DPDDA)
A mixture comprising 5750 g of 96% sulfuric acid and 2350 g of 40% hydrogen peroxide was introduced into a stirred vessel and treated with 1060 g of powdered dodecanedioic acid (DDA) at 45° C. over 30 minutes. After 4 hours of reaction time, a mixture of the following composition was obtained:

reactant | sulfuric acid | 5750 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 2350 g | OO | H2O2
reactant | dodecanedioic acid | 1060 g | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
product | Diperoxydode-canedioic Acid | C(CCCCCCCCCCC(=O)OO)(=O)OO | C12H22O6
